US07598267B2
Preparation of 4-[cyano(diphenyl)methyl]-1-(3-hydroxypropyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 7, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile (0.0495 g, 0.164 mmol) and 3-bromo-1-propanol (0.030 mL, 0.343 mmol) in 2CH3CN/3CHCl3 (4.0 mL) were reacted to give the desired product (0.0467 g, 64.9%). EI-MS m/z 361 (M+) Rt (1.98 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)acetonitrile | 0.164 mmol, 0.0495 g | N12CCC(CC1)(CC2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C21H22N2
reactant | 3-bromo-1-propanol | 0.343 mmol, 0.030 mL | BrCCCO | C3H7BrO
product | 4-[cyano(diphenyl)methyl]-1-(3-hydroxypropyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0467 g, 64.9% | [Br-].C(#N)C(C12CC[N+](CC1)(CC2)CCCO)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H29N2O.BrH/c25-20-24(21-8-3-1-4-9-21,22-10-5-2-6-11-22)23-12-16-26(17-13-23,18-14-23)15-7-19-27;/h1-6,8-11,27H,7,12-19H2;1H/q+1;/p-1
